US04278685
(2,5-Dichloro-1H-pyrrol-1-yl)-N-methylacetamide
A mixture of methyl (2,5-dichloro-1H-pyrrol-1-yl)acetate (1.04 g) and methylamine (5 cm3, 33% solution in ethanol) was allowed to stand at room temperature overnight. The solvent was then evaporated and the residue crystallised from isopropanol to give the title compound (0.65 g) m.p. 193°-4° C.

reactant | methyl (2,5-dichloro-1H-pyrrol-1-yl)acetate | 1.04 g | ClC=1N(C(=CC1)Cl)CC(=O)OC | C7H7Cl2NO2
reactant | methylamine | 5 cm3 | CN | CH5N
product | (2,5-Dichloro-1H-pyrrol-1-yl)-N-methylacetamide | 0.65 g | ClC=1N(C(=CC1)Cl)CC(=O)NC | C7H8Cl2N2O
